US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 19, using 1.50 g (5.51 mmol) of 4-amino-1-(4-t-butylbenzyl)-5-imidazole carboxamide which was prepared in the same manner as in Example 57 and nicotinic acid instead of cyclopentyl acetic acid to obtain 1.45 g of 1-(4-t-butylbenzyl)-4-(3-pyridylcarbonylamino)-5-imidazolecarboxamide (yield 70%).

reactant | 4-amino-1-(4-t-butylbenzyl)-5-imidazole carboxamide | 5.51 mmol, 1.50 g | NC=1N=CN(C1C(=O)N)CC1=CC=C(C=C1)C(C)(C)C | C15H20N4O
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
product | 1-(4-t-butylbenzyl)-4-(3-pyridylcarbonylamino)-5-imidazolecarboxamide | 1.45 g, yield 70% | C(C)(C)(C)C1=CC=C(CN2C=NC(=C2C(=O)N)NC(=O)C=2C=NC=CC2)C=C1 | C21H23N5O2
